US07687529B2
A mixture of 1-[(1R)-3-chloro-1-phenylpropyl]-3,3-dimethyl-1,3-dihydro-2H-indol-2-one (220 mg, 0.700 mmol) and ethanolic solution of methylamine (33% in ethanol, 5 mL) was heated at 125° C. for 2 h with stirring in a sealed reaction vessel. Upon cooling, all volatiles were removed under reduced pressure. The resulting residue was dissolved in dichloromethane (20 mL), washed with aqueous potassium carbonate (5 mL), dried (anhydrous sodium sulfate), and concentrated. Purification by Isco CombiFlash Companion chromatography (RediSep 4-g silica column, 0-15% methanol/dichloromethane/0.5% triethylamine) gave 200 mg (93%) of 3,3-dimethyl-1-[(1R)-3-(methylamino)-1-phenylpropyl]-1,3-dihydro-2H-indol-2-one as a viscous colorless liquid, which was dissolved dichloromethane (5 mL) and treated with an ethereal solution of hydrochloric acid (1 M, 0.7 mL, 0.7 mmol). To the resulting solution was added hexane until white powder formed, which was collected, washed with hexane, and dried in vacuo to yield 3,3-dimethyl-1-[(1R)-3-(methylamino)-1-phenylpropyl]-1,3-dihydro-2H-indol-2-one hydrochloride as a white powder. MS (ES) m/z 308.9 ([M+H]+); HRMS: calculated for C20H24N2O+H+, 309.1961; found (ESI, [M+H]+), 309.1953.

reactant | 1-[(1R)-3-chloro-1-phenylpropyl]-3,3-dimethyl-1,3-dihydro-2H-indol-2-one | 0.700 mmol, 220 mg | ClCC[C@H](C1=CC=CC=C1)N1C(C(C2=CC=CC=C12)(C)C)=O | C19H20ClNO
reactant | methylamine | 5 mL | CN | CH5N
product | 3,3-dimethyl-1-[(1R)-3-(methylamino)-1-phenylpropyl]-1,3-dihydro-2H-indol-2-one | 200 mg, 93% | CC1(C(N(C2=CC=CC=C12)[C@H](CCNC)C1=CC=CC=C1)=O)C | C20H24N2O
